US08466289B2
Synthesis of Intermediate 8-(3-Benzyloxy-cyclobutanesulfonylamino)-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (I-6a)
Using the same reaction conditions and workup as described for the preparation of Intermediate (I-5d), 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (I-5c: 350 mg, 0.7 mmol) in pyridine (3 mL) was reacted with 3-benzyloxy-cyclobutanesulfonyl chloride (273 mg, 1.05 mmol) to afford the crude product. Purification by column chromatography on silica gel (80% ethylacetate in hexane) afforded 250 mg of the product (45.3% yield).

reactant | 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 0.7 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)N | C19H22FIN4O3
reactant | 3-benzyloxy-cyclobutanesulfonyl chloride | 1.05 mmol, 273 mg | C(C1=CC=CC=C1)OC1CC(C1)S(=O)(=O)Cl | C11H13ClO3S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 8-(3-Benzyloxy-cyclobutanesulfonylamino)-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 250 mg, 45.3% yield | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)NS(=O)(=O)C2CC(C2)OCC2=CC=CC=C2 | C30H34FIN4O6S
